US04874792
(a) 2-Dodecylbromobenzene
To a solution of 1-bromoundecane (0.34 mole) in acetonitrile (800 ml) was added triphenylphosphine (0.37 mole), under argon, and the mixture was refluxed for 24 hours. The reaction mixture was allowed to cool to room temperature and the solvent was removed in vacuo. The resulting oil was redissolved in acetonitrile (100 ml) and then ether (1.2 l) was added. The ether was decanted and the procedure was repeated 4 times, at which point a solid came out of the ether. The solid was collected, washed with ether and air-dried to give the phosphonium salt. The latter (16.2 mmoles) was dissolved in tetrahydrofuran (66 ml), under argon, cooled to 0° C. and n-butyl lithium (7.4 ml, 2.2 M in hexane, 16.2 mmoles) was added dropwise over a 10 minute period. This solution was stirred at 0° C. for 15 minutes and then a solution of 2-bromobenzaldehyde (13.5 mmoles) in tetrahydrofuran (15 ml) was added dropwise over 10 minutes. The reaction mixture was stirred for 15 minutes and then the solvent was removed in vacuo. Ether was added to the residue and allowed to sit for 18 hours. The ether layer was filtered away from the gummy residue and the residue treated 3 more times with ether. The combined ether extract was concentrated and flash chromatographed on silica, eluted with hexane, to give a mixture of cis and trans 2-(1-dodecenyl)bromobenzene. The mixture (5.57 mmoles) was dissolved in toluene (75 ml) and ethanol (75 ml) and then tris(triphenylphosphine) rhodium chloride catalyst (0.7 g) was added. The suspension was degassed with argon for 30 minutes and purged with hydrogen under argon for 1 hour. The mixture was hydrogenated at 50 psi for 6 hours and then left standing under hydrogen pressure for 60 hours. The reaction mixture was shaken for 2 hours, argon was bubbled in and the solid filtered. The filtrate was concentrated, the residue triturated with ether and then filtered. This filtrate was treated with charcoal, silica and filtered. The filtrate was concentrated, the residue redissolved in hexane and treated with silica. Concentration of the filtrate gave the product as a solid.

reactant | n-butyl lithium | 16.2 mmoles, 2.2 M, 7.4 ml | C(CCC)[Li]
reactant | 2-bromobenzaldehyde | 13.5 mmoles | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | trans 2-(1-dodecenyl)bromobenzene | C(=C\CCCCCCCCCC)/C1=C(C=CC=C1)Br | C18H27Br
reactant | ethanol | 75 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 66 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(triphenylphosphine) rhodium chloride | 0.7 g | [Rh](Cl)(Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-Dodecylbromobenzene | C(CCCCCCCCCCC)C1=C(C=CC=C1)Br | C18H29Br
